US07906517B2
(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (2.0 g) is dissolved in ethanol (20 ml), and thereto are added cyanogen bromide (578 mg) and sodium bicarbonate (928 mg) and the mixture is stirred at room temperature for 2 hours. To reaction mixture is added a saturated aqueous sodium bicarbonate solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=10:1→5:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-cyanamide (1.8 g). MS (m/z): 575 [M+H]+

reactant | (3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 2.0 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C27H24F9NO
reactant | cyanogen bromide | 578 mg | N#CBr | CBrN
reactant | sodium bicarbonate | 928 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-cyanamide | 1.8 g | FC(C=1C=C(CN(C#N)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C28H23F9N2O
